US09023846B2
3-tert-Butyl-4-cyano-isoxazole-5-carboxylic acid ethyl ester (809 mg, 3.64 mmol, prepared as described in the previous step) was dissolved in MeOH (9 mL) and 1 M LiOH (4.73 mL, 4.73 mmol) was added. The resulting mixture was stirred at room temperature for 3 h and the solvent was removed under reduced pressure. The resulting residue was dissolved in H2O (10 mL) and extracted with DCM (3×10 mL). The aqueous layer was acidified to pH˜2 using 3 M HCl and extracted with EtOAc (3×20 mL). The combined extracts were dried over MgSO4 and filtered. The solvent was removed under reduced pressure to yield 3-tert-butyl-4-cyano-isoxazole-5-carboxylic acid. 1H-NMR (400 MHz, CDCl3) δ: 9.90 (br. s., 1H), 1.50 (s, 9H).

reactant | 3-tert-Butyl-4-cyano-isoxazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C(=NO1)C(C)(C)C)C#N | C11H14N2O3
reactant | LiOH | 4.73 mmol, 1 M, 4.73 mL | [Li+].[OH-]
solvent | MeOH | 9 mL | CO | CH4O
product | 3-tert-butyl-4-cyano-isoxazole-5-carboxylic acid | C(C)(C)(C)C1=NOC(=C1C#N)C(=O)O | C9H10N2O3
